US08431573B2
2-(2-Fluorobenzyl)-4-[4-(2-hydroxyethyl)-1-piperidinyl]-6-oxo-1,6-dihydro-5-pyrimidinecarbonitrile
0.1 g (0.37 mmol) of 2-(2-fluorobenzyl)-4-(methylsulphanyl)-6-oxo-1,6-dihydro-5-pyrimidinecarbonitrile is heated with 0.14 g (1.1 mmol) of 2-(4-piperidinyl)ethan-1-ol in 3 ml of acetonitrile at 90° C. under argon for six days. After cooling to room temperature, the crude product is purified by preparative HPLC. 31 mg (24% of theory) of the title compound are obtained as a colourless solid.

reactant | 2-(2-fluorobenzyl)-4-(methylsulphanyl)-6-oxo-1,6-dihydro-5-pyrimidinecarbonitrile | 0.37 mmol, 0.1 g | FC1=C(CC=2NC(C(=C(N2)SC)C#N)=O)C=CC=C1 | C13H10FN3OS
reactant | 2-(4-piperidinyl)ethan-1-ol | 1.1 mmol, 0.14 g | N1CCC(CC1)CCO | C7H15NO
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 2-(2-Fluorobenzyl)-4-[4-(2-hydroxyethyl)-1-piperidinyl]-6-oxo-1,6-dihydro-5-pyrimidinecarbonitrile | FC1=C(CC=2NC(C(=C(N2)N2CCC(CC2)CCO)C#N)=O)C=CC=C1 | C19H21FN4O2
